US06683211B1
BOP (2.0 g, 4.5 mmol) is added to a solution of (4-chloro-phenyl)-acetic acid (0.7 g, 4.1 mmol), N-benzoyloxy-2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine (1.4 g, 4.3 mmol) and N-ethyldiisopropylamine (2.8 ml, 16.4 mmol) in 10 ml DMF. The reaction mixture is stirred at room temperature for 20 hours. The reaction mixture is then poured into water and extracted three times with ethyl acetate. The organic phase is dried over Na2SO4 and concentrated. The crude product is purified by flash chromatography (ethyl acetate:hexane, 1:3) to yield N-benzoyloxy-2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide as an oil.

reactant | BOP | 4.5 mmol, 2.0 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (4-chloro-phenyl)-acetic acid | 4.1 mmol, 0.7 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | N-benzoyloxy-2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethylamine | 4.3 mmol, 1.4 g | C(C1=CC=CC=C1)(=O)ONCCC1=CC(=C(C=C1)OCC#C)OC | C19H19NO4
reactant | N-ethyldiisopropylamine | 16.4 mmol, 2.8 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-benzoyloxy-2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | C(C1=CC=CC=C1)(=O)ON(C(CC1=CC=C(C=C1)Cl)=O)CCC1=CC(=C(C=C1)OCC#C)OC | C27H24ClNO5
